US06136823
Synthesis of 1-(5-amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic Acid
A 40% aqueous solution (150 mg) of methylamine and 1-(5-amino-2,4-difluorophenyl)-7-chloro-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid (150 mg) were added to pyridine (2 ml), and the mixture was stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, ethanol was added to the residue, and solids deposited were collected by filtration to obtain the title compound (40 mg) as colorless crystals.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-7-chloro-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O)F)F | C15H7ClF3N3O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic Acid | 40 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(N=C12)NC)F)=O)C(=O)O)F)F | C16H11F3N4O3
